US06159978
Phenyl-[6-(tetrahydrofuran-3-(R)-yl-oxy)quinoxalin-2-yl]amine
To a THF solution of 10° C. under argon is added 2-anilino-6-quinoxalinol (0.23 g, 0.97 mmol), (S)-(+)-3-hydroxytetrahydrofuran (0.086 mL, 1.3 mmol), and triphenylphosphine (0.31 g, 1.2 mmol). DEAD (0.18 mL, 1.2 mmol) is added portionwise. The reaction is allowed to warm to room temperature and stirred for 1.5 hours. The mixture is concentrated and partitioned between EtOAc and H2O. The organic layer is washed with H2O, brine, dried (MgSO4), and concentrated. The resulting yellow oil is chromatographed (50% EtOAc/hexanes) and taken up in Et2O/IPA (isopropanol). HCl/Et2O solution is added dropwise and the resulting red-orange powder is dried in vacuo. The powder is free-based by stirring in MeOH with washed (3×H2O, 5× MeOH) basic ion exchange resin. The mixture is stirred 30 minutes, filtered, concentrated, and recrystallized from EtOAc/hexanes to provide, in two crops, the product (m.p. 173-175° C.). Anal. Calcd. for C18H17N3O2 : C, 70.35; H, 5.57; N, 13.67; Found: C, 70.19; H, 5.60; N, 13.66.

reactant | 2-anilino-6-quinoxalinol | 0.97 mmol, 0.23 g | N(C1=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1)O | C14H11N3O
reactant | (S)-(+)-3-hydroxytetrahydrofuran | 1.3 mmol, 0.086 mL | O[C@@H]1COCC1 | C4H8O2
reactant | triphenylphosphine | 1.2 mmol, 0.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.2 mmol, 0.18 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | Phenyl-[6-(tetrahydrofuran-3-(R)-yl-oxy)quinoxalin-2-yl]amine | C1(=CC=CC=C1)NC1=NC2=CC=C(C=C2N=C1)O[C@H]1COCC1 | C18H17N3O2
